US07705028B2
3a) Ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate
To a solution of 2,6-dichlorobenzaldehyde oxime (2.2 g, 11.6 mmol) in N,N,-dimethylformamide (7 mL) cooled in a water bath was added solid N-chlorosuccinimide (1.5 g, 11.6 mmol). The solution was stirred with the flask in the water bath for approximately 20 minutes and then with the flask out of the bath for approximately 1 hour. The solution was poured into water and then extracted twice with ether. The combined organic phases were dried over magnesium sulfate and concentrated. To a separate solution of ethyl 3-cyclobutyl-3-oxopropanoate (2.4 g, 13.9 mmol) in tetrahydrofuran (3 mL) at 0° C. was added a 3.16 M solution of sodium ethoxide in ethanol (4.4 mL, 13.9 mmol) quickly. The solution was stirred for a few minutes. To that solution was added the isolated imidoyl chloride in tetrahydrofuran (5 mL) dropwise. The solution was stirred at 0° C. for approximately 1 h and then allowed to stir at ambient temperature overnight. The solution was poured into water and extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate, concentrated and purified by chromatography (silica gel, 0-5% ethyl acetate in hexanes gradient elution) to afford a white solid (1.5 g, 38%). 1H-NMR (DMSO-d6) δ 7.63-7.53 (m, 3H), 4.25 (quintet, J=9 Hz, 1H), 4.02 (q, J=7 Hz, 2H), 2.43-2.36 (m, 4H), 2.15-1.89 (m, 2H), 0.94 (t, J=7 Hz, 3H).

reactant | 2,6-dichlorobenzaldehyde oxime | 11.6 mmol, 2.2 g | ClC1=C(C=NO)C(=CC=C1)Cl | C7H5Cl2NO
reactant | N-chlorosuccinimide | 11.6 mmol, 1.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ethyl 3-cyclobutyl-3-oxopropanoate | 13.9 mmol, 2.4 g | C1(CCC1)C(CC(=O)OCC)=O | C9H14O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 13.9 mmol, 4.4 mL | C(C)O | C2H6O
solvent | N,N,-dimethylformamide | 7 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolecarboxylate | 1.5 g, 38% | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)C(=O)OCC | C16H15Cl2NO3
